US03998834
A mixture of 5 parts of 1-{4-[(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinyl} ethanone and 14 parts of propanoic acid anhydride is stirred and refluxed for 5 hours. The reaction mixture is cooled to room temperature, poured onto ice-water and alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 6% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on triturating in petroleum-ether. The product is filtered off, crystallized from 2,2'-oxybispropane, filtered off again and dried in vacuo, yielding 2.5 parts (42.5%) of N-[4-acetyl-1-(2-phenylethyl)-4-piperidinyl]-N-(4-methylphenyl)-propanamide; mp. 112.8° C.

reactant | 1-{4-[(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinyl} ethanone | CC1=CC=C(C=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(C)=O | C22H28N2O
reactant | propanoic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-acetyl-1-(2-phenylethyl)-4-piperidinyl]-N-(4-methylphenyl)-propanamide | 42.5% | C(C)(=O)C1(CCN(CC1)CCC1=CC=CC=C1)N(C(CC)=O)C1=CC=C(C=C1)C | C25H32N2O2
